US04337346
In 15 ml of benzene, were dissolved 714 mg of phenylglyoxal monohydrate and 828 mg of (S)-2-(anilinomethyl)pyrrolidine. The resulting solution was refluxed for one hour while removing the formed water by azeotropic distillation. Benzene was removed by distillation in vacuo and the residue was dissolved in 20 ml of ether. To the resulting solution cooled to -70° C., was added dropwise 1.5 equivalents of an ether solution of methylmagnesium iodide. After having been allowed to react for one hour at -70° C., the solution was admixed with 4 ml of saturated aqueous ammonium chloride solution and brought to room temperature. After separating the ether layer, the aqueous layer was neutralized with saturated aqueous sodium hydrogencarbonate solution and then extracted with ether. The ether layer was combined with the previously separated ether layer, admixed with 30 ml of 2% hydrochloric acid and allowed to react for 12 hours at 0° C. The ether layer was separated, washed with saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. After removal of the ether by distillation in vacuo, the residue was purified by means of a silica gel column chromatography to obtain 471 mg (67%) of (S)-(+)-2-hydroxy-2-phenylpropionaldehyde. [α]D =+244° (C=1.138, benzene); optical yield was 95%. The optical yield was determined by converting the substance into methyl atrolactate methyl ether of known optical rotation.

reactant | phenylglyoxal monohydrate | 714 mg | O.C1(=CC=CC=C1)C(=O)C=O
reactant | (S)-2-(anilinomethyl)pyrrolidine | 828 mg | N(C1=CC=CC=C1)C[C@H]1NCCC1 | C11H16N2
reactant | ether | 1.5 equivalents | CCOCC | C4H10O
reactant | methylmagnesium iodide | C[Mg]I
reactant | ammonium chloride | 4 ml | [Cl-].[NH4+]
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | (S)-(+)-2-hydroxy-2-phenylpropionaldehyde | 471 mg, 67% | O[C@@](C=O)(C)C1=CC=CC=C1 | C9H10O2
